US05409928
Preparation of α-acetoxy-4-t-butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol
4-t-Butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol (6 g, 16.8 millimol) was dissolved in pyridine (10 ml), and thereto was added dimethylaminopyridine (200 mg, 1,6 millimol), and the mixture was cooled with ice. To the mixture were added acetylchloride (1.54 g, 19.6 millimol) and methylene chloride (10 ml). The mixture was returned to room temperature, and stirred for 2 hours. After adding water, the mixture was extracted with ethyl acetate, the organic layer was washed with in turn dil. hydrochloric acid, water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate. The solvent was distilled away to give the title compound (6.9 g, 16.6 millimol, 99%).

reactant | 4-t-Butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol | 16.8 millimol, 6 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(C(C2=CC(=CC=C2)C)O)C=C1)C | C22H32O2Si
reactant | acetylchloride | 19.6 millimol, 1.54 g | C(C)(=O)Cl | C2H3ClO
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | dimethylaminopyridine | 1,6 millimol, 200 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | α-acetoxy-4-t-butyldimethylsilyloxymethyl-2,3'-dimethylbenzhydrol | 16.6 millimol, 6.9 g, 99% | C(C)(=O)OC(C1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)C)(C1=CC(=CC=C1)C)O | C24H34O4Si
